2145-06-29 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-6-28**] 10:00 AM
   pt refused blood cultures and labs earlier. taken from IV
 ENDOSCOPY - At [**2145-6-28**] 10:00 AM
 EKG - At [**2145-6-28**] 10:55 PM
   GI saw patient, doesn't want to do colonoscopy due to troponin levels,
   KUB no signs of obstruction, continue with go lytely, hct stable, given
   1uPRBC today, repeat hct, troponin and MBI increase, EKG.
   Allergies:
   Epinephrine
   Unknown;
   Cephalosporins
   Unknown;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-28**] 08:00 AM
   Ciprofloxacin - [**2145-6-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2145-6-28**] 09:45 AM
   Fentanyl - [**2145-6-28**] 09:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-29**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36
C (96.8
   HR: 70 (68 - 79) bpm
   BP: 103/71(80) {70/12(37) - 129/96(99)} mmHg
   RR: 18 (11 - 31) insp/min
   SpO2: 96%
   Heart rhythm: V Paced
   Height: 60 Inch
             Total In:
                                                                  3,345 mL
                                                                    648 mL
   PO:
                                                                    480 mL
                                                                     30 mL
   TF:
   IVF:
                                                                  1,165 mL
                                                                    618 mL
   Blood products:
                                                                  1,700 mL
   Total out:
                                                                    463 mL
                                                                    130 mL
   Urine:
                                                                    438 mL
                                                                    130 mL
   NG:
   Stool:
                                                                     25 mL
   Drains:
   Balance:
                                                                  2,882 mL
                                                                    518 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///21/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.9 g/dL
   147 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.6 mEq/L
   81 mg/dL
   107 mEq/L
   142 mEq/L
   39.0 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-6-28**]  03:00 AM
                             [**2145-6-28**]  08:46 AM
                             [**2145-6-28**]  06:57 PM
                             [**2145-6-28**]  11:47 PM
   WBC
   9.1
   Hct
   29.7
   29.5
   37.6
   39.0
   Plt
   208
   Cr
   1.9
   TropT
   0.13
   0.29
   0.33
   Glucose
   147
   Other labs: PT / PTT / INR:16.1/25.7/1.4, CK / CKMB /
   Troponin-T:99/13/0.33, Differential-Neuts:76.7 %, Lymph:16.4 %,
   Mono:6.3 %, Eos:0.2 %, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.8 mg/dL
   Imaging: KUB, upright/supine: no free air or signs of obstruction
   Microbiology: Bcx pending
   Ucs pending
   Assessment and Plan
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ASSESSMENT & PLAN: Ms. [**Known lastname 2267**] is a [**Age over 90 **] year old female with AF on
   coumadin s/p PPM, CVA, CAD s/p CABG, HTN, HL, PVD, CHF (EF 40%), [**Hospital 348**]
   transferred to MICU with hypotension after admission for melena and
   anemia.
   # Acute blood loss anemia: Likely secondary to GIB given history of
   ongoing melena. Has had several days of dark stools with drop in
   hematocrit and BP. Has been symptomatic with weakness, fatigue, LH. Has
   not had any further active bleeding since this am however history of
   impaction requiring hospitalization so concern for ongoing bleed above
   impaction that may become evident.
   Anticoagulation reveresed, INR now 1.4 after FFP and Vit K.  Hct 39
   o/n.
   - GI to watch, does not want to scope in setting of increasing troponin
   - CE's
   - Conitinue to hold coumadin
   - Trend hematocrit q12
   - transfuse Hct<30
   - maintain 2 large bore PIVs
   - continue Go Lytely
   - IV PPI [**Hospital1 **]
   - maintain active type and cross
   # Hypotension: BP still running low, possiblly [**12-28**] GIB vs infection.
   RUQ TTP and +UA (with epithelials) could be sign of infection.
   - Cipro/Flagyl for coverage UTI/intraabdominal source of infection
   - Treat GIB as above
   - Maintain PIVs
   - follow up urine cx, blood cx
   - RUQ U/S
   #Increased Troponins: likely [**12-28**] demand ischemia or elevated due to
   renal failure.  Cards following.
   -check CEs this AM, if still increassing, check PM CEs.
   # Acute on chronic renal failure: Creatinine up to 2.0 in setting of
   bleed, likely related to poor kidney perfusion with hypotension.
   Patient also with poor PO intake over past two weeks. BUN may be
   elevated from bleed plus dehydration.
   - Trend Cr, K.
   - Urine lytes
   - Hold lasix, ACE
   - maintain volume with IVF
   # Atrial fibrillation: On coumadin, Vpaced. Plan for pacer battery
   change next week.
   - Hold coumadin, beta blocker overnight.
   - Monitor on telemetry
   # ? UTI: Positive UA but with epithelials. WBC count not elevated, no
   fever. Recent weakness.
   - Repeat UA, UCx
   - Start Cipro for now pending repeat UA and culture.
   # Systolic Heart failure (EF 40%): IVF given in ED. JVP flat, lungs
   clear on exam and on CXR.
   - Monitor O2 sats, VS
   # CAD s/p CABG:
   - Cycle cardiac enzymes given weakness and hct drop
   - Hold ASA
   - Hold antihypertensives
   # Hypertension:
   - Hold antihypertensives.
   # FEN: FFP / replete lytes prn / NPO
   # PPX: PPI [**Hospital1 **], no anticoagulation. Holding bowel regimen.
   # ACCESS: PIV
   # CODE: DNR/DNI
   # CONTACT: [**Name (NI) **] [**Name (NI) 103**] [**Name (NI) 2267**] [**Telephone/Fax (1) 8088**], [**Telephone/Fax (1) 8089**]
   # DISPO: Pending GI evaluation
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-6-28**] 05:22 AM
   Comments: PIV x 2 20g
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Son [**Name (NI) 103**] [**Name (NI) 2267**] [**Telephone/Fax (1) 8088**], [**Telephone/Fax (1) 8089**]
   Code status: DNR / DNI
   Disposition:Transfer to floor

2145-06-30 07:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-6-29**] 12:00 PM
   requested per tem given elevated CE's.
   Goals of care mtg: no cath, wants reanticoagulation and would prefer to
   risk repeat GI bleed rather than stroke. Called outpatient cardiologist
   at [**Hospital1 12**] but he was on [**Last Name (un) 8145**] and covering had no insights. Cardiac
   enzymes: cont. to uptrend, stopped checking.  Started coumadin, but not
   heparin due to risk for acute gi bleed on both. Started on ASA 325.
   Miralax, lactulose with large BM x1 (guiac +ve).  Pt had episode
   hypotension to 70's with mentation,  systolic improved to 90's within 5
   minutes, HR remained in 70s(paced).  Required 500cc IVF overnight for
   low UOP.
   -- plan for MACU vs floor today.
   Allergies:
   Epinephrine
   Unknown;
   Cephalosporins
   Unknown;
   Omeprazole
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2145-6-28**] 08:00 AM
   Ciprofloxacin - [**2145-6-28**] 10:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2145-6-29**] 07:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-6-30**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.4
C (95.8
   HR: 72 (63 - 80) bpm
   BP: 91/44(54) {77/31(46) - 130/79(76)} mmHg
   RR: 15 (13 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 52 kg (admission): 49.4 kg
   Height: 60 Inch
                  Total In:
                                                                  1,598 mL
                                                                     60 mL
   PO:
                                                                    490 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,108 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    145 mL
   Urine:
                                                                    405 mL
                                                                    145 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,193 mL
                                                                    -85 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   208 K/uL
   9.9 g/dL
   147 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.6 mEq/L
   81 mg/dL
   107 mEq/L
   142 mEq/L
   38.7 %
   9.1 K/uL
        [image002.jpg]
                             [**2145-6-28**]  03:00 AM
                             [**2145-6-28**]  08:46 AM
                             [**2145-6-28**]  06:57 PM
                             [**2145-6-28**]  11:47 PM
                             [**2145-6-29**]  06:11 AM
                             [**2145-6-29**]  05:06 PM
   WBC
   9.1
   Hct
   29.7
   29.5
   37.6
   39.0
   37.5
   38.7
   Plt
   208
   Cr
   1.9
   TropT
   0.13
   0.29
   0.33
   0.37
   Glucose
   147
   Other labs: PT / PTT / INR:16.1/25.7/1.4, CK / CKMB /
   Troponin-T:74/13/0.37, Differential-Neuts:76.7 %, Lymph:16.4 %,
   Mono:6.3 %, Eos:0.2 %, Ca++:8.7 mg/dL, Mg++:2.6 mg/dL, PO4:5.8 mg/dL
   Microbiology: Ucx [**6-27**], [**6-28**]: contaminated culture
   Bcx [**6-28**]: pending
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 DELIRIUM / CONFUSION
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   ASSESSMENT & PLAN: Ms. [**Known lastname 2267**] is a [**Age over 90 **] year old female with AF on
   coumadin s/p PPM, CVA, CAD s/p CABG, HTN, HL, PVD, CHF (EF 40%), [**Hospital 348**]
   transferred to MICU with hypotension after admission for melena and
   anemia.
   # Acute blood loss anemia: Likely secondary to GIB.
   - restarted coumadin
   - Trend hematocrit q12
   - transfuse Hct<30
   -maintain active Type/Cross
   - maintain 2 large bore PIVs
   - continue bowel regimen to acoid constipation
   - PPI
   #Increased Troponins with EKG changes concerning for ischemia.  Goals
   of care mtg, decision for no Cath, so beyond ASA and coumadin, no other
   intervention will occur.  Stopped checking CE's.
   -ASA
   - no more CE's
   - no repeat EKGs
   -restarted coumadin
   -for increasing pain, give morphine
   # Hypotension: BP still running low, possiblly [**12-28**] GIB vs infection.
   RUQ TTP and +UA (with epithelials) could be sign of infection.
   - Treat GIB as above
   - Maintain PIVs
   -fluids as necessary to maintain UOP >30cc/hr
   # Acute on chronic renal failure: Creatinine up to 2.0 in setting of
   bleed, likely related to poor kidney perfusion with hypotension.
   Patient also with poor PO intake over past two weeks. BUN may be
   elevated from bleed plus dehydration.
   - Trend Cr, K.
   - Urine lytes
   - Hold lasix, ACE
   - maintain volume with IVF
   # Atrial fibrillation: On coumadin, Vpaced. Plan for pacer battery
   change next week.
   - Hold beta blocker overnight.
   - Monitor on telemetry
   # Systolic Heart failure (EF 40%): IVF given in ED. JVP flat, lungs
   clear on exam and on CXR.
   - Monitor O2 sats, VS
   ICU Care
   Nutrition:
   Comments: regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2145-6-28**] 05:22 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition:Transfer to rehab / long term care facility